US03932678
A 300 ml. flask equipped with a magnetic stirrer, cold water condenser, CO2 outlet and bubbler, and a heated oil bath was charged with 21 g. of crude α-cyano-m-hydroxydihydrocinnamic acid (above) and freshly redistilled quinoline (10 ml.). The acid underwent smooth decarboxylation at an oil bath temperature of 150°C with CO2 evolution ceasing after about 2.5 hr. For workup, the cooled mixture was treated with 200 ml. of 5N HCl and extracted thoroughly with several portions of diethyl ether totalling 350 ml. The ether was washed with water (1 × 100 ml.), saturated NaHCO3 (4 × 50 ml.), brine (1 × 100 ml.), and dried over anhydrous Na2SO4. Concentration of the ether solution gave 11.15 g. (69% yield) of β-(m-hydroxyphenyl)propionitrile as a pale yellow solid. Recrystallization from ethyl acetate/hexane gave the pure compound as light yellow crystals, m.p. 64°-66°C.

reactant | CO2 | C(=O)=O | CO2
reactant | quinoline | 10 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | β-(m-hydroxyphenyl)propionitrile | 69% yield | OC=1C=C(C=CC1)CCC#N | C9H9NO
